US07550629B2
C. 4-Chloro-3-fluoro-N-(3,3,3-trifluoro-1-hydroxymethyl-2-trifluoromethyl-propyl)-benzenesulfonamide
2-(4-Chloro-3-fluoro-benzenesulfonylamino)-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester (150 mg, 0.337 mmol) was dissolved in anhydrous THF (5 mL) and cooled to 0° C. 2M LiBH4 in THF (168 μL in THF) was added and the solution allowed to warm to 25° C. After 18 h, LC-MS revealed unreacted starting ester present. Additional 2M LiBH4 (200 μL) was added and the solution stirred for 24 h. The solution was cooled in an ice bath and 1N hydrochloric acid was added to quench the reaction. The solvent was removed in vacuo and the aqueous phase transferred to a separatory funnel with EtOAc (100 mL) and washed with distilled water (100 mL). The organic layer was removed and the aqueous phase extracted with EtOAc (100 mL×2). The organic extracts were combined, dried (MgSO4), filtered and evaporated to give a white solid (111 mg). This material was purified by Gilson RP-HPLC (column YMC Combiprep 50×20 mm, gradient 10-100% CH3CN: H2O) to afford a white solid (63 mg, 46%). Mass Spectrum (+ESI): 401.8 [M−H]+.

reactant | 2-(4-Chloro-3-fluoro-benzenesulfonylamino)-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 0.337 mmol, 150 mg | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC(=C(C=C1)Cl)F)=O | C13H11ClF7NO4S
reactant | LiBH4 | 2M | [Li+].[BH4-]
reactant | LiBH4 | 2M, 200 μL | [Li+].[BH4-]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 168 μL | C1CCOC1 | C4H8O
product | 4-Chloro-3-fluoro-N-(3,3,3-trifluoro-1-hydroxymethyl-2-trifluoromethyl-propyl)-benzenesulfonamide | 111 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC(C(C(F)(F)F)C(F)(F)F)CO)F | C11H9ClF7NO3S
